US08580812B2
B. N-(adamantan-1-ylmethyl)-2-(2-cyanoethyl)pyrazolo[1,5-a]pyridine-4-carboxamide (Compound 12)
Pd/C (50 mg) is added to a solution of 2-(2-cyano-vinyl)-pyrazolo[1,5-a]pyridine-4-carboxylic acid (adamantan-1-ylmethyl)-amide in MeOH. The mixture is stirred under hydrogen balloon for 6 h. The mixture is filtered through celite and the celite and solvent are removed to give the title compound. LC-MS m/z (M+H+): 363.

reactant | 2-(2-cyano-vinyl)-pyrazolo[1,5-a]pyridine-4-carboxylic acid (adamantan-1-ylmethyl)-amide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)C=CC#N | C22H24N4O
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-(adamantan-1-ylmethyl)-2-(2-cyanoethyl)pyrazolo[1,5-a]pyridine-4-carboxamide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)CCC#N | C22H26N4O
